data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1F.[Pd]", "products": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1F"}, {"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1F", "products": "Cc1ccc2c(c1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc2c(c1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc2c(c1F)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccccc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccccc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1F", "products": "O=C1CCN2C[C@H](OC(Cl)c3ccccc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(C)c1C(=O)C1C2CCC1C2", "products": "Cc1cccc(C)c1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1cccc(C)c1[C]([O])C1C2CCC1C2", "products": "Cc1cccc(C)c1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1cccc(C)c1C([O])=CC1C[CH]CC1", "products": "Cc1cccc(C)c1C(O)=CC1C=CCC1"}, {"reactants": "Cc1cccc(C)c1C(O)=CC1C=CCC1", "products": "Cc1cccc(C)c1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)cc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1C)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(C)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(C)c1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(C)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(C)c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(C)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(C)c1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c(C)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1F", "products": "O=C1CCN2C[C@H](OCc3ccccc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(F)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1F", "products": "O=C1CCN2C[C@H](OCc3ccc(F)cc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(Cl)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1ccc(Cl)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(Cl)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(Cl)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1ccc(Cl)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(Cl)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1ccc(Cl)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1ccc(Cl)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1ccc(Cl)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1ccc(Cl)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1ccc(Cl)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1ccc(Cl)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1ccc(Cl)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1ccc(Cl)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(Cl)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1ccc(Cl)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
